### PR TITLE
[Merged by Bors] - feat: Add `Nat.card_sum`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds `Nat.card_sum`. The finiteness assumptions cannot be dropped, unfortunately.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 1]
```diff
@@ -95,6 +95,12 @@ theorem card_eq_two_iff' (x : α) : Nat.card α = 2 ↔ ∃! y, y ≠ x :=
 theorem card_of_isEmpty [IsEmpty α] : Nat.card α = 0 := by simp
 #align nat.card_of_is_empty Nat.card_of_isEmpty
 
+@[simp]
+theorem Nat.card_sum [Finite α] [Finite β] : Nat.card (α ⊕ β) = Nat.card α + Nat.card β := by
```
Comment (tb65536) [inline Mathlib/SetTheory/Cardinal/Finite.lean:99]:
```suggestion
theorem card_sum [Finite α] [Finite β] : Nat.card (α ⊕ β) = Nat.card α + Nat.card β := by
```

**Comment by ocfnash** [comment]
Thanks!

bors merge
